US04073891
To a solution of 2.0 g of N2 -tosyl-L-arginyl-N-butylglycine tert-butyl ester in 20 ml of chloroform was added 50 ml of 15% HCl-ethyl acetate. The reaction mixture was stirred for 5 hours at room temperature. At the end of this period, the reaction mixture was evaporated to dryness. The residue was washed several times with dry ethyl ether to give 1.5 g of N2 -tosyl-L-arginyl-N-butylglycine hydrochloride as an amorphous solid. I.R. (KBr): 3,340, 3,180, 1,640 cm-1

reactant | N2 tosyl-L-arginyl-N-butylglycine tert-butyl ester | 2.0 g | N#N.C(C)(C)(C)OC(CN(CCCC)C([C@@H](NS(=O)(=O)C1=CC=C(C)C=C1)CCCNC(N)=N)=O)=O
reactant | HCl ethyl acetate | 50 ml | Cl.C(C)(=O)OCC
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 tosyl-L-arginyl-N-butylglycine hydrochloride | 1.5 g | N#N.Cl.S(=O)(=O)(C1=CC=C(C)C=C1)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCCC | InChI=1S/C19H31N5O5S.ClH.N2/c1-3-4-12-24(13-17(25)26)18(27)16(6-5-11-22-19(20)21)23-30(28,29)15-9-7-14(2)8-10-15;;1-2/h7-10,16,23H,3-6,11-13H2,1-2H3,(H,25,26)(H4,20,21,22);1H;/t16-;;/m0../s1
